US08604034B2
To a chilled (0° C.) solution of the 2-(1H-pyrrol-1-yl)-1-[5-(trifluoromethyl)pyridin-2-yl]ethanone (100 mg, approx. 90% pure, 0.35 mmol) in dry CH2Cl2 (5 mL) was added trichloroacetyl chloride (90 μL, 0.80 mmol) under nitrogen. The mixture was allowed to warm to room temperature. After completion (44 hours, monitored by LCMS) the mixture was cooled to 0° C. and quenched with a saturated aqueous solution of NaHCO3 (5 mL). The aqueous layer was then extracted with CH2Cl2 (2×2 mL). The organic layers were combined, dried (MgSO4), filtered and concentrated in vacuo to yield a residue that was purified by flash chromatography (Biotage, 12 g cartridge, gradient hexanes 1 CV, 0-60% EtOAc in hexanes 10 CV) to give 2,2,2-trichloro-1-(1-{2-oxo-2-[5-(trifluoromethyl)pyridin-2-yl]ethyl}-1H-pyrrol-2-yl)ethanone as an orange oil (105 mg, yield: 75%). ESI-MI m/z [M+H]+ 398.9.

reactant | 2-(1H-pyrrol-1-yl)-1-[5-(trifluoromethyl)pyridin-2-yl]ethanone | 0.35 mmol, 100 mg | N1(C=CC=C1)CC(=O)C1=NC=C(C=C1)C(F)(F)F | C12H9F3N2O
reactant | trichloroacetyl chloride | 0.80 mmol, 90 μL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trichloro-1-(1-{2-oxo-2-[5-(trifluoromethyl)pyridin-2-yl]ethyl}-1H-pyrrol-2-yl)ethanone | 105 mg, yield: 75% | ClC(C(=O)C=1N(C=CC1)CC(C1=NC=C(C=C1)C(F)(F)F)=O)(Cl)Cl | C14H8Cl3F3N2O2
